US07317101B2
10 g of 7-amino-3-formyl-3-cephem-4-carboxylic acid in 200 ml of acetonitrile: methylenchloride (1:1) are treated with 37.4 ml of N,O-bis(trimethylsilyl)acetamide at room temperature within ca. 5 minutes. After ca. 30 minutes the reaction mixture is cooled to −10° and 21 g of 2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetic acid chloride are added in 3 portions. The temperature raises to −5°. After ca. 45 minutes the reaction mixture is treated with 4 ml of water. The temperature raises to 20°. The reaction mixture is stirred for ca. 10 minutes and filtered. 15 g of active charcoal are added to this filtrate and stirring is continued for ca. 10 minutes. After filtration the solvent of the filtrate obtained is evaporated. The evaporation residue is treated with tert.butyl-methyl ether. A crystalline, almost colourless precipitate is obtained, filtered off and dried. Crystalline N-(1,4,5a,6-Tetrahydro-3-hydroxy-1,7-dioxo-3H,7H-azeto[2,1-b]furo[3,4-d][1,3]thiazin-6-yl)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetic acid amide is obtained in form of a diastereomeric mixture in the ratio of ca. 1:1.

reactant | (6R-trans)-7-Amino-3-formyl-8-oxo-5-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylic acid | 10 g | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)C=O | C8H8N2O4S
reactant | N,O-bis(trimethylsilyl)acetamide | 37.4 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetic acid chloride | 21 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC | C25H20ClN3O2S
reactant | water | 4 ml | O | H2O
solvent | acetonitrile methylenchloride | 200 ml | C(C)#N.C(Cl)Cl
product | N-(1,4,5a,6-Tetrahydro-3-hydroxy-1,7-dioxo-3H,7H-azeto[2,1-b]furo[3,4-d][1,3]thiazin-6-yl)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetic acid amide | OC1OC(C=2N3C(SCC21)C(C3=O)NC(C(=NOC)C=3N=C(SC3)NC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=O)=O | C33H27N5O6S2
